data/mechanism_extracts/JACS/10.1021_jacs.4c09621.json
{"doi": "10.1021_jacs.4c09621", "journal": "JACS", "is_review": false, "rxn_class_summary": "Decarboxylative C(sp2)-C(sp3) cross-coupling of carboxylic acids with aryl iodides via Fe/Ni dual metallaphotoredox catalysis under 390 nm irradiation.", "mechanism_family": ["photoredox_combined", "direct_SET", "electrocatalysis_inner_sphere"], "electrochemical_role": null, "key_intermediates": [{"name": "Fe(III) carboxylate complex (FeIII(O(CO)R)n)", "smiles": null, "role": "resting_state"}, {"name": "carboxylate radical (RCO2•)", "smiles": null, "role": "transient"}, {"name": "Fe(II) species after LMCT", "smiles": null, "role": "transient"}, {"name": "alkyl radical (R•) from CO2 extrusion", "smiles": null, "role": "reactive"}, {"name": "(L)Ni(I)-I (50)", "smiles": null, "role": "reactive"}, {"name": "(L)Ni(II)(Alkyl)X (51)", "smiles": null, "role": "reactive"}, {"name": "(L)Ni(I)(Alkyl) (52)", "smiles": null, "role": "reactive"}, {"name": "(L)Ni(III)(Aryl)(Alkyl) (53)", "smiles": null, "role": "reactive"}, {"name": "(4-tBuBpy)Ni(II)(Aryl)(NPhth) (44)", "smiles": null, "role": "off_pathway"}, {"name": "(4-tBuBpy)Ni(II)(Alkyl)(NPhth) (46)", "smiles": null, "role": "stoichiometric_model"}], "electron_flow": "Photoexcited Fe(III) carboxylate undergoes inner-sphere LMCT to give a carboxyl radical and Fe(II); decarboxylation releases an alkyl radical that adds to (L)Ni(I)X to form (L)Ni(II)(Alkyl)X, which is reduced by Fe(II) to (L)Ni(I)(Alkyl); oxidative addition of Ar-I gives (L)Ni(III)(Aryl)(Alkyl) that reductively eliminates the cross-coupled product and regenerates (L)Ni(I)X.", "rate_determining_step": null, "probe_reagents": [{"name": "(4-tBuBpy)Ni(II)(Aryl)(NPhth) (44)", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "With FeCl3 + light gave only 2% cross-coupled product and ~6% Ar-NPhth, indicating Ni(II)-aryl is not the productive on-cycle intermediate."}, {"name": "(4-tBuBpy)Ni(II)(Alkyl)(NPhth) (46)", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Formed cross-coupled product under various conditions even without light, supporting Ni(II)-alkyl as competent intermediate; bialkyl side products implicate reductive elimination forming Ni(0)."}, {"name": "KNPhth (potassium phthalimide)", "smiles": null, "purpose": "intermediate_trap", "observation": "Addition of 5 equiv with FeCl3/acid/base gave only 13% product, distinct from MacMillan's 67%, arguing against Ni(II)-aryl pathway."}, {"name": "FeCl2 vs FeCl3 control (no light)", "smiles": null, "purpose": "redox_probe", "observation": "No coupled product without irradiation; only Ar-H formed, confirming light-driven Fe-mediated decarboxylation is essential."}, {"name": "X-ray crystallography of 46", "smiles": null, "purpose": "other", "observation": "Structural characterization of Ni(II)(Alkyl)(NPhth) (CCDC 2371033)."}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate", "on/off_light_or_current", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Authors explicitly consider and disfavor an alternative pathway proceeding via Ni(0)/Ni(II)(Aryl)X oxidative addition followed by radical capture; their data instead support radical capture by Ni(I)X to give Ni(II)(Alkyl)X, then reduction to Ni(I)(Alkyl) prior to Ar-I oxidative addition. Open questions remain regarding exact Fe speciation, the radical-capture step, and roles of iodide, Zn, and 4-ethylpyridine additives. Fe activation is via inner-sphere LMCT rather than outer-sphere SET typical of Ir photocatalysts."}
